US07947715B2
Step 4: Production of 3-[4-(chloromethyl)phenyl]-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole
In a solution of 4.2 g of 5-(3,5-dichlorophenyl)-3-[4-(hydroxymethyl)phenyl]-5-trifluoromethyl-4,5-dihydro-isoxazole in 100 mL of dichloromethane, 1.2 mL of thionyl chloride and a catalytic amount (2 to 3 drops) of N,N-dimethylformamide were added, and stirred under reflux with heating for 3 hours. After the completion of the reaction, the reaction mixture was poured into 30 mL of ice water, the organic phase was collected, washed with water (50 mL×1) and saturated sodium hydrogen carbonate aqueous solution (30 mL×3), and thereafter dehydrated with and dried over saturated sodium chloride aqueous solution and anhydrous sodium sulfate in that order, and the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluted with ethyl acetate-hexane (1:5) to obtain 4.1 g of the aimed product as pale yellow crystal.

reactant | 5-(3,5-dichlorophenyl)-3-[4-(hydroxymethyl)phenyl]-5-trifluoromethyl-4,5-dihydro-isoxazole | 4.2 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C=C1)CO)C(F)(F)F | C17H12Cl2F3NO2
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | thionyl chloride | 1.2 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | 2 to 3 drops | CN(C=O)C | C3H7NO
product | 3-[4-(chloromethyl)phenyl]-5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole | 4.1 g | ClCC1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H11Cl3F3NO
